US08487108B2
Step 2. methyl 2-((R)—((R)-1-((S)-1-cyclohexyl-3-(methylamino)propan-2-ylcarbamoyl)piperidin-3-yl)(phenyl)methoxy)ethylcarbamate
A 100 mL flask was charged with methyl 2-((R)—((R)-1-((S)-1-cyclohexyl-3-(N-methyl-N-(benzyloxycarbonyl)amino)propan-2-ylcarbamoyl)piperidin-3-yl)(phenyl)methoxy)ethylcarbamate (230 mg, 0.35 mmol) and Pd(OH)2 (45 mg) dissolved in MeOH (35 mL) under H2 and stirred for 1 hr. After completion of the reaction, the mixture was filtered. The solution was evaporated to give the crude product (120 mg), which was purified by preparative HPLC to obtain the target molecule (50.2 mg, 29%).

reactant | methyl 2-((R)—((R)-1-((S)-1-cyclohexyl-3-(N-methyl-N-(benzyloxycarbonyl)amino)propan-2-ylcarbamoyl)piperidin-3-yl)(phenyl)methoxy)ethylcarbamate | 0.35 mmol, 230 mg | C1(CCCCC1)C[C@@H](CN(C(=O)OCC1=CC=CC=C1)C)NC(=O)N1C[C@@H](CCC1)[C@@H](OCCNC(OC)=O)C1=CC=CC=C1 | C35H50N4O6
solvent | MeOH | 35 mL | CO | CH4O
catalyst | Pd(OH)2 | 45 mg | [OH-].[OH-].[Pd+2]
product | methyl 2-((R)—((R)-1-((S)-1-cyclohexyl-3-(methylamino)propan-2-ylcarbamoyl)piperidin-3-yl)(phenyl)methoxy)ethylcarbamate | 120 mg | C1(CCCCC1)C[C@@H](CNC)NC(=O)N1C[C@@H](CCC1)[C@@H](OCCNC(OC)=O)C1=CC=CC=C1 | C27H44N4O4
